US08912209B2
Boc2NH (175 g, 0.925 mol, 1.0 eq) was added to a solution of t-BuOK (124.5 g, 1.11 mol 1.02 eq) in DMF (3 L), the resulting solution was stirred for 1 h at room temperature. Crude 3-bromo-4-bromomethyl-benzoic acid methyl ester was added to above reaction solution at room temperature and stirred overnight. The solvent was removed under vacuum and the residue was dissolved in DCM (500 ml). The DCM solution was washed with water (3×500 ml), dried over MgSO4 and concentrated. The crude product was purified by column chromatography on silica gel using PE: EA=20:1 to give diBoc-4-Aminomethyl-3-bromo-benzoic acid methyl ester (290 g, 70% yield) as yellow solid

reactant | Boc2NH | 0.925 mol, 175 g, 1.0 eq | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | t-BuOK | 1.11 mol, 124.5 g, 1.02 eq | CC(C)(C)[O-].[K+]
reactant | 3-bromo-4-bromomethyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CBr)Br)=O | C9H8Br2O2
reactant | EA | CC(OCC)=O | C4H8O2
reactant | DMF | 3 L | CN(C)C=O | C3H7NO
product | diBoc-4-Aminomethyl-3-bromo-benzoic acid methyl ester | 290 g, 70% yield | COC(C1=C(C(=C(C(=C1)C(=O)OC(C)(C)C)CN)Br)C(=O)OC(C)(C)C)=O | C19H26BrNO6
